US08563723B2
0.14 g 2,3-Dihydro-1H-indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide was dissolved in 25 mL toluene, the mixture was degassed, and 10 mol % of palladium on carbon was added. The mixture was stirred overnight at 50° C. The mixture was cooled to room temperature and filtered over Hyflo, and the Hyflo was washed with toluene. The filtrate was evaporated to dryness and the residue was purified by flash chromatography (DCM→DCM/EA 95:5→DCM/EA 8:2) to give 70 mg of 1H-Indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide as a white amorphous solid. 1H NMR (400 MHz, CDCl3) δ 0.86 (t, J=7.52 Hz, 3H), 1.06 (t, J=7.22 Hz, 3H), 1.32-1.57 (m, 2H), 2.89-3.00 (m, 1H), 3.35-3.54 (m, 3H), 3.89 (t, J=11.44 Hz, 1H), 6.54 (br.s., 1H), 6.84 (d, J=1.50 Hz, 1H), 6.96 (br.s., 1H), 7.36 (t, J=2.86 Hz, 1H), 7.59-7.70 (m, 2H), 8.26 (d, J=1.20 Hz, 1H), 9.55 (br.s., 1H).

reactant | 2,3-Dihydro-1H-indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide | 0.14 g | C(C)NC(=NS(=O)(=O)C1=CC=C2CCNC2=C1)N1N=CC(C1)CC | C16H23N5O2S
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 1H-Indole-6-sulfonic acid ethylamino-(4-ethyl-4,5-dihydro-pyrazol-1-yl)-methyleneamide | 70 mg | C(C)NC(=NS(=O)(=O)C1=CC=C2C=CNC2=C1)N1N=CC(C1)CC | C16H21N5O2S
